US07067517B2
1-(5-Methoxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione
A mixture of 5-methoxy-pyrimidin-2-ylamine (1.00 g, 7.99 mmol) and 3,3-dimethylglutaric anhydride (1.14 g, 7.99 mmol) was heated at 180° C. for 9 hours. After cooling to room temperature the reaction mixture was dissolved in a small amount of dichloromethane and purified by flash column chromatography (SiO2, ethyl acetate:heptane 70:30), yielding the title compound (0.79 g, 40% yield) as a white solid.

reactant | 5-methoxy-pyrimidin-2-ylamine | 7.99 mmol, 1.00 g | COC=1C=NC(=NC1)N | C5H7N3O
reactant | 3,3-dimethylglutaric anhydride | 7.99 mmol, 1.14 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-Methoxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione | 0.79 g, 40% yield | COC=1C=NC(=NC1)N1C(CC(CC1=O)(C)C)=O | C12H15N3O3
